US06150352
Step 4.1E 2-{2-[6-allyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 6-allyl-7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one (960 mg in 30 mL of tetrahydrofuran) at 0° C. was added 615 mg of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester and 1.04 g of triphenylphosphine followed by 0.56 mL of diethyl azodicarboxylate and the mixture warmed to room temperature. After 20 hours, the solvents were removed in vacuo and the residue purified by flash chromatography on silica gel (hexane:ethylacetate, 85:15; then 80:20; then 90:10) to give the title compound (1.19 g).

reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 615 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | triphenylphosphine | 1.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.56 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 6-allyl-7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one | 30 mL, 960 mg | C(C=C)C=1C=C2C(=C(C(NC2=CC1Cl)=O)C1=CC(=CC(=C1)C)C)O | C20H18ClNO2
product | 2-{2-[6-allyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.19 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CC=C)Cl)=O)C1=CC(=CC(=C1)C)C | C32H39ClN2O4
